US04904686
Methyl 3-hydroxy-5-methylthiophene-2-carboxylate
To a stirred suspension of 2-chloro-2-methoxycarbonylthiophen-3(2H)-one (6.35 g, 33 mmol) in acetic acid (20 ml) was added sulphuric acid (1.8 ml) in acetic acid (20 ml). The mixture was stirred until dissolved then methyl mercaptan was bubbled through for 0.5 hours (total approximately 2 g). The mixture was stirred at room temperature for 18 hours, poured onto ice-water and the oily precipitate extracted into dichloromethane. After evaporation of solvent the crude oil was used in the following preparation.

reactant | 2-chloro-2-methoxycarbonylthiophen-3(2H)-one | 33 mmol, 6.35 g | ClC1(SC=CC1=O)C(=O)OC | C6H5ClO3S
reactant | sulphuric acid | 1.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | Methyl 3-hydroxy-5-methylthiophene-2-carboxylate | OC1=C(SC(=C1)C)C(=O)OC | C7H8O3S
